US08623896B2
To a solution of 4-hydroxymethyl-2-trifluoromethyl-benzoic acid (Example I8) (9.07 g) in methanol (250 ml) was added toluene (250 ml) and concentrated sulfuric acid (4.5 ml). The reaction mixture was stirred at 80° C. for 16 hours. The methanol was removed and the residue diluted with aqueous sodium hydrogen carbonate (saturated) (150 ml) and ethyl acetate (150 ml). The phases were separated and the aqueous layer was extracted with more ethyl acetate (2×150 ml). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated to give 4-hydroxymethyl-2-trifluoromethyl-benzoic acid methyl ester (5.97 g) as a colorless oil. 1H-NMR (CDCl3, 400 MHz): 8.76-7.27 (m, 3H), 4.78 (s, 2H), 3.93 (s, 3H), 2.5 (br s, 1H).

reactant | 4-hydroxymethyl-2-trifluoromethyl-benzoic acid | 9.07 g | OCC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O3
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 250 ml | CO | CH4O
product | 4-hydroxymethyl-2-trifluoromethyl-benzoic acid methyl ester | 5.97 g | COC(C1=C(C=C(C=C1)CO)C(F)(F)F)=O | C10H9F3O3
